US06376499B1
Step B: 6-Cyano-1-methylindazole
The title compound was prepared according to the method described in Example 8, Step A, 4-cyano-2-fluorobenzaldehyde and methyl hydrazine as starting materials: 1H NMR (CDCl3) δ 8.07 (s, 1H), 7.83 (d, J=8.2 Hz, 1H), 7.79 (s, 1H), 7.37 (d, J=8.3 Hz, 1H), 4.14 (s, 3H).

reactant | 4-cyano-2-fluorobenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
reactant | methyl hydrazine | CNN | CH6N2
product | 6-Cyano-1-methylindazole | C(#N)C1=CC=C2C=NN(C2=C1)C | C9H7N3
